US07943669B2
Step B: {2-Methyl-4-[3-(3-morpholin-4-yl-prop-1-ynyl)-5-(3-trifluoromethylphenoxy)-phenylsulfanyl]-phenoxy}-acetic Acid
{2-Methyl-4-[3-(3-morpholin-4-yl-prop-1-ynyl)-5-(3-trifluoromethyl-phenoxy)phenylsulfanyl]-phenoxy}-acetic acid ethyl ester (160 mg; 0.27 mmol) was dissolved in ethanol (15 mL), and aqueous 1 N sodium hydroxide (3 mL) was added. The reaction mixture was stirred for 16 h. acidified with 1 N aqueous hydrochloric acid and extracted with ethyl acetate, dried and evaporated to dryness. The organic phase was purified by preparative HPLC (method B). Yield: 128 mg (84%). HPLC-MS: m/z: 558.4 (M+H)+; Rt: 1.91 min. δH (400 MHz; CDCl3) 2.26 (s, 3H), 3.05-3.55 (m, 4H), 3.91-4.04 (m, 4H), 4.11 (s, 2H), 4.70 (s, 2H), 6.71-6.78 (m, 3H), 6.81-6.84 (m, 1H), 7.11-7.16 (m, 1H), 7.19-7.23 (m, 1H), 7.27-7.33 (m, 2H), 7.37-7.41 (m, 1H), 7.43-7.49 (m, 1H).

reactant | {2-Methyl-4-[3-(3-morpholin-4-yl-prop-1-ynyl)-5-(3-trifluoromethyl-phenoxy)phenylsulfanyl]-phenoxy}-acetic acid ethyl ester | 0.27 mmol, 160 mg | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)OC1=CC(=CC=C1)C(F)(F)F)C#CCN1CCOCC1)C)=O | C31H30F3NO5S
reactant | sodium hydroxide | 1 N, 3 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | {2-Methyl-4-[3-(3-morpholin-4-yl-prop-1-ynyl)-5-(3-trifluoromethylphenoxy)-phenylsulfanyl]-phenoxy}-acetic Acid | CC1=C(OCC(=O)O)C=CC(=C1)SC1=CC(=CC(=C1)OC1=CC(=CC=C1)C(F)(F)F)C#CCN1CCOCC1 | C29H26F3NO5S
